US04537903
2-(o-Hydroxymethylcinnamyl)-4-methoxyphenol
Sodium borohydride (35 mg) was added in one portion to a solution of 2-(o-formylcinnamyl)-4-methoxyphenol (240 mg; 0.89 mM) in 5 ml of methanol. The reaction was stirred at room temperature for 2 hours and then the solvent was removed in vacuo. The residue was taken up in 2N aqueous hydrochloric acid and extracted with ether. The ethereal phase was washed with water, dried over magnesium sulfate, stripped of solvent, and filtered through 11/2" of silica gel in a 30 ml fritted funnel with 50% ethyl acetate/hexane providing 240 mg (99%) of pure 2-(o-hydroxymethylcinnamyl)-4-methoxyphenol.

reactant | Sodium borohydride | 35 mg | [BH4-].[Na+]
reactant | 2-(o-formylcinnamyl)-4-methoxyphenol | 0.89 mM, 240 mg | C(=O)C1=C(C=CCC2=C(C=CC(=C2)OC)O)C=CC=C1 | C17H16O3
solvent | methanol | 5 ml | CO | CH4O
product | 2-(o-Hydroxymethylcinnamyl)-4-methoxyphenol | OCC1=C(C=CCC2=C(C=CC(=C2)OC)O)C=CC=C1 | C17H18O3
